US04088695
A mixture of 6-(7-hydroxyheptyl)-7-(4-methyl-3-oxooct-1-enyl)-1,4-dioxaspiro[4,4]nonane (1.0 g.) and hydrochloric acid (25 ml; 1N) was stirred at 60° C. for 2 hours, cooled to ambient temperature and extracted with diethyl ether. The ether extract was washed with 2N aqueous sodium carbonate solution and water respectively then dried over magnesium sulphate. Removal of the solvent under reduced pressure gave a crude product (0.7 g.) which was purified by preparative thin layer chromatography on silica gel, using a mixture of diethyl ether, ethyl acetate and hexane (2:1:1 v/v) as eluant, to give 7-[2-(4-methyl-3-oxooct-1-enyl)-5-oxocyclopentyl]heptanol (0.38 g.), νmax (liquid film) 3450 cm-1, 1730 cm-1, 1690 cm-1, 1660 cm-1, 1380 cm-1, 995 cm-1 ; λmax. (ethanol) 230 nm (ε = 13,600); Elemental analysis: Found: C, 74.9; H, 11.0%; C21H36O3 requires C, 74.95; H, 10.8%; N.M.R. (approximately 10% solution in deuterochloroform): Triplets at 3.57 δ (J = 6 cycles/sec.) and 0.88 δ, doublet of doublets at 6.81 δ (J = 15.5 cycles/sec. and J = 7 cycles/sec.), doublets at 6.20 δ (J = 15.5 cycles/sec.) and 1.11 δ (J = 7 cycles/sec.), broad singlet 2.0 δ.

reactant | 6-(7-hydroxyheptyl)-7-(4-methyl-3-oxooct-1-enyl)-1,4-dioxaspiro[4,4]nonane | 1.0 g | OCCCCCCCC1C2(OCCO2)CCC1C=CC(C(CCCC)C)=O | C23H40O4
reactant | hydrochloric acid | 1N, 25 ml | Cl | ClH
product | 7-[2-(4-methyl-3-oxooct-1-enyl)-5-oxocyclopentyl]heptanol | 0.38 g | CC(C(C=CC1C(C(CC1)=O)CCCCCCCO)=O)CCCC | C21H36O3
